US08377573B2
A reaction vessel was charged with 6.0 g of 2,5-dibromopyridine, 7.0 ml of bistributyltin, and 120 ml of xylene, followed by heating and stirring at 60° C. for 15 minutes. Further, 700 mg of tetrakis(triphenylphosphine)palladium was added thereto, followed by stirring at 120° C. for 8 hours. After cooling to room temperature, the insoluble materials were removed by filtration, and the filtrate was washed with 150 ml of an aqueous ethylenediamine tetraacetate solution. The organic layer was dehydrated with anhydrous sodium sulfate and concentrated under reduced pressure to obtain a crude product. The crude product was purified by column chromatography (carrier: silica gel, eluent: cyclohexane/toluene) to obtain 1.7 g (yield 42%) of 5,5′-dibromo-[2,2′]bipyridine as a yellow powder.

reactant | 2,5-dibromopyridine | 6.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
catalyst | tetrakis(triphenylphosphine)palladium | 700 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,5′-dibromo-[2,2′]bipyridine | 1.7 g, yield 42% | BrC=1C=CC(=NC1)C1=NC=C(C=C1)Br | C10H6Br2N2
